US05614631
6-(1-Decynyl)-2-quinolinecarboxaldehyde
A solution of 6-bromo-2-(quinolinecarboxaldehyde (18.9 g), 1-decyne (12.2 g) and triethylamine (24.3 g) in dry tetrahydrofuran (300 ml) was chilled to 5° C. and degassed, under nitrogen. bis(Triphenylphosphine)palladium (II) chloride (0.56 g) and copper (I) iodide (0.08 g) were added to the reaction mixture, which was degassed and stirred under nitrogen at room temperature for 30 mins, and then heated at 40° C. for 19 hrs. The mixture was cooled to room temperature, the precipitate was filtered, and the filter cake was washed with ethyl acetate, and the filtrate was evaporated. The residue was dissolved in ethyl acetate, washed with water and brine, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated. The residue was chromatographed on silica gel, eluting with heptane to heptane:2% ethyl acetate. The appropriate fractions were collected and evaporated. A 2 g-portion of the residue (23.4 g) was chromatographed, eluting with hexane:dichloromethane/2:1 give 1.3 g (64.0%) of product, mp 46.5°-47.5° C.

reactant | quinolinecarboxaldehyde | 18.9 g | N1=C(C=CC2=CC=CC=C12)C=O | C10H7NO
reactant | 1-decyne | 12.2 g | C#CCCCCCCCC | C10H18
reactant | triethylamine | 24.3 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 6-(1-Decynyl)-2-quinolinecarboxaldehyde | 1.3 g, 64.0% | C(#CCCCCCCCC)C=1C=C2C=CC(=NC2=CC1)C=O | C20H23NO
